US04547501
(a) Preparation of 2,3-dihydroxy-6-fluoroquinoxaline
A mixture consisting of 26.3 g. (0.19 mole) of 4-fluoro-1,2-phenylenediamine [Journal of the American Chemical Society, Vol. 75, P. 1294 (1953)] and 150 ml. of diethyl oxalate was refluxed under a nitrogen atmosphere for a period of 18 hours. Upon completion of this step, the reaction mixture was cooled to room temperature (~20° C.), filtered and the recovered product subsequently washed with four-100 ml. portions of ethanol and air-dried to constant weight to ultimately afford 19.3 g. (80%) of pure 2,3-dihydroxy-6-fluoroquinoxaline, m.p. >300° C. (literature m.p. 387°-390° C., according to U.S. Pat. No. 3,992,378). Mass Spectrum: m/e, 180 (P+).

reactant | 4-fluoro-1,2-phenylenediamine | 0.19 mole | FC1=CC(=C(C=C1)N)N | C6H7FN2
reactant | diethyl oxalate | C(C(=O)OCC)(=O)OCC | C6H10O4
product | 2,3-dihydroxy-6-fluoroquinoxaline | OC1=NC2=CC=C(C=C2N=C1O)F | C8H5FN2O2
